US05547949
Preparation of 2,4-bis(2,2-dimethylpropylamino)-6-(1-piperazinyl)pyrimidine
The reaction of 4-chloro-2,6-bis(2,2-dimethylpropylamino)pyrimidine with piperazine as described in Example 5 gives the title compound in a yield of 51.1%, m.p.:138°-140° C.

reactant | 4-chloro-2,6-bis(2,2-dimethylpropylamino)pyrimidine | ClC1=NC(=NC(=C1)NCC(C)(C)C)NCC(C)(C)C | C14H25ClN4
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2,4-bis(2,2-dimethylpropylamino)-6-(1-piperazinyl)pyrimidine | yield of 51.1% | CC(CNC1=NC(=CC(=N1)NCC(C)(C)C)N1CCNCC1)(C)C | C18H34N6
